US05567711
To a solution under N2 of 6-(4-fluorophenyl)indole (10.0 g, 47.4 mmol) in dioxane (36 mL) was added pyridine (5.80 mL, 71.8 mmol) and the solution was heated to 60° C. A solution of chloroacetyl chloride (5.66 mL, 71.1 mmol) in dioxane (12.5 mL) was added over one hour. The reaction mixture was stirred for one hour at 60° C., then was cooled to ambient temperature and partitioned between H2O and ether. The resulting orange precipitate was filtered off, recrystallized from ethanol, and rinsed with cold ether to give 6-(4-fluorophenyl)-3-chloroacetylindole (2.78 g, 20% as an orange solid.

reactant | 6-(4-fluorophenyl)indole | 47.4 mmol, 10.0 g | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
reactant | pyridine | 71.8 mmol, 5.80 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 71.1 mmol, 5.66 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
product | 6-(4-fluorophenyl)-3-chloroacetylindole | FC1=CC=C(C=C1)C1=CC=C2C(=CNC2=C1)C(CCl)=O | C16H11ClFNO
